* FILE: MMI_INVA.sp


* SPICE netlist for "MMI_INVA" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_INVA in out 
M_0 out in vdd vdd p W='0.92*1u' L=lp_min  
M_1_1 out in gnd gnd n W='0.46*1u' L=ln_min  
.ENDS	$ MMI_INVA

