* FILE: MMI_INVC.sp


* SPICE netlist for "MMI_INVC" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_INVC in out 
M_0 out in gnd gnd n W='1.54*1u' L=ln_min  
M_1_1 out in vdd vdd p W='3.08*1u' L=lp_min  
.ENDS	$ MMI_INVC

