* FILE: MMI_INVD.sp


* SPICE netlist for "MMI_INVD" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_INVD in out 
M_0 out in gnd gnd n W='3.68*1u' L=ln_min  
M_1_1 out in vdd vdd p W='7.36*1u' L=lp_min  
.ENDS	$ MMI_INVD

