* FILE: MMI_KEEPW.sp


* SPICE netlist for "MMI_KEEPW" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_KEEPW in 
M_0 in net_1 vdd vdd p W='0.42*1u' L=lp_min  
M_1_1 net_1 in vdd vdd p W='0.42*1u' L=lp_min  
M_2_1 in net_1 gnd gnd n W='0.42*1u' L='2*ln_min'  
M_3_1 net_1 in gnd gnd n W='0.42*1u' L='2*ln_min'  
.ENDS	$ MMI_KEEPW

