* FILE: MMI_LLCB.sp


* SPICE netlist for "MMI_LLCB" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_LLCB clk clrb d q 
Minverter._0 N1 d gnd gnd n W='0.77*1u' L=ln_min  
Minverter._1 N1 d vdd vdd p W='1.54*1u' L=lp_min  
M_2_1 net_2 N5 gnd gnd n W='0.35*1u' L=ln_min  
M_3_1 N2 clk_L net_4 vdd p W='0.35*1u' L=lp_min  
M_4_1 net_4 N5 vdd vdd p W='0.35*1u' L=lp_min  
M_5_1 N2 clk net_2 gnd n W='0.35*1u' L=ln_min  
Minverter_1._6 clk_L clk gnd gnd n W='0.385*1u' L=ln_min 
Minverter_1._7 clk_L clk vdd vdd p W='0.77*1u' L=lp_min 
Mxgate._8 N2 clk N1 vdd p W='1.54*1u' L=lp_min  
Mxgate._9 N2 clk_L N1 gnd n W='0.77*1u' L=ln_min  
Minverter_2._10 q net_3 gnd gnd n W='0.77*1u' L=ln_min  
Minverter_2._11 q net_3 vdd vdd p W='1.54*1u' L=lp_min  
Minverter_3._12 net_3 N5 gnd gnd n W='0.385*1u' L=ln_min 
Minverter_3._13 net_3 N5 vdd vdd p W='0.77*1u' L=lp_min 
Mnor2._14 N5 N2 gnd gnd n W='0.385*1u' L=ln_min  
Mnor2._15 N5 N2 nor2%net_1 vdd p W='1.54*1u' L=lp_min  
Mnor2._16 N5 net_1 gnd gnd n W='0.385*1u' L=ln_min  
Mnor2._17 nor2%net_1 net_1 vdd vdd p W='1.54*1u' L=lp_min 
Minverter_4._18 net_1 clrb gnd gnd n W='0.385*1u' L=ln_min 
Minverter_4._19 net_1 clrb vdd vdd p W='0.77*1u' L=lp_min 
.ENDS	$ MMI_LLCB

