* FILE: MMI_LTCHPB.sp


* SPICE netlist for "MMI_LTCHPB" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_LTCHPB clk d q 
Mxgate._0 N2 clk_L N1 vdd p W='1.54*1u' L=lp_min  
Mxgate._1 N2 clk N1 gnd n W='0.77*1u' L=ln_min  
Minverter._2 N1 d gnd gnd n W='0.77*1u' L=ln_min  
Minverter._3 N1 d vdd vdd p W='1.54*1u' L=lp_min  
M_4_1 net_1 N5 gnd gnd n W='0.35*1u' L=ln_min  
M_5_1 N2 clk net_2 vdd p W='0.35*1u' L=lp_min  
M_6_1 net_2 N5 vdd vdd p W='0.35*1u' L=lp_min  
M_7_1 N2 clk_L net_1 gnd n W='0.35*1u' L=ln_min  
Minverter_1._8 clk_L clk gnd gnd n W='0.385*1u' L=ln_min 
Minverter_1._9 clk_L clk vdd vdd p W='0.77*1u' L=lp_min 
Minverter_2._10 q N2 gnd gnd n W='0.77*1u' L=ln_min  
Minverter_2._11 q N2 vdd vdd p W='1.54*1u' L=lp_min  
Minverter_3._12 N5 N2 gnd gnd n W='0.385*1u' L=ln_min  
Minverter_3._13 N5 N2 vdd vdd p W='0.77*1u' L=lp_min  
.ENDS	$ MMI_LTCHPB

