* FILE: MMI_MUX4B.sp


* SPICE netlist for "MMI_MUX4B" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_MUX4B in0 in1 in2 in3 out sel0 sel1 
Mxgate._0 N2 sel1 N1 vdd p W='1.84*1u' L=lp_min  
Mxgate._1 N2 sel1_L N1 gnd n W='0.92*1u' L=ln_min  
Mxgate_1._2 N2 sel1_L net_1 vdd p W='1.84*1u' L=lp_min  
Mxgate_1._3 N2 sel1 net_1 gnd n W='0.92*1u' L=ln_min  
Minverter._4 sel1_L sel1 gnd gnd n W='0.46*1u' L=ln_min 
Minverter._5 sel1_L sel1 vdd vdd p W='0.92*1u' L=lp_min 
Mxgate_2._6 N1 sel0 net_2 vdd p W='1.84*1u' L=lp_min  
Mxgate_2._7 N1 net_6 net_2 gnd n W='0.92*1u' L=ln_min  
Minverter_1._8 net_2 in0 gnd gnd n W='0.92*1u' L=ln_min 
Minverter_1._9 net_2 in0 vdd vdd p W='1.84*1u' L=lp_min 
Mxgate_3._10 N1 net_6 net_3 vdd p W='1.84*1u' L=lp_min  
Mxgate_3._11 N1 sel0 net_3 gnd n W='0.92*1u' L=ln_min  
Minverter_2._12 net_3 in1 gnd gnd n W='0.92*1u' L=ln_min 
Minverter_2._13 net_3 in1 vdd vdd p W='1.84*1u' L=lp_min 
Mxgate_4._14 net_1 sel0 net_4 vdd p W='1.84*1u' L=lp_min 
Mxgate_4._15 net_1 net_6 net_4 gnd n W='0.92*1u' L=ln_min 
Minverter_3._16 net_4 in2 gnd gnd n W='0.92*1u' L=ln_min 
Minverter_3._17 net_4 in2 vdd vdd p W='1.84*1u' L=lp_min 
Mxgate_5._18 net_1 net_6 net_5 vdd p W='1.84*1u' L=lp_min 
Mxgate_5._19 net_1 sel0 net_5 gnd n W='0.92*1u' L=ln_min 
Minverter_4._20 net_5 in3 gnd gnd n W='0.92*1u' L=ln_min 
Minverter_4._21 net_5 in3 vdd vdd p W='1.84*1u' L=lp_min 
Minverter_5._22 net_6 sel0 gnd gnd n W='0.62*1u' L=ln_min 
Minverter_5._23 net_6 sel0 vdd vdd p W='1.24*1u' L=lp_min 
Minverter_6._24 out N2 gnd gnd n W='0.92*1u' L=ln_min  
Minverter_6._25 out N2 vdd vdd p W='1.84*1u' L=lp_min  
.ENDS	$ MMI_MUX4B

